US07538224B2
N-Furfuryl-2-nitro-N-[2-(tetrahydropyran-2-yloxy)ethyl]benzenesulfonamide (10 g, 24 mmol) obtained in Reference Example 11, Step 3 was dissolved in acetonitrile (0.10 L). To the solution were added cesium carbonate (24 g, 74 mmol) and thiophenol (3.0 mL, 29 mmol), followed by stirring for 2 hours, while the temperature was raised from room temperature to 80° C. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate-methanol/ethyl acetate=15/85) to obtain N-[2-(tetrahydropyran-2-yloxy)ethyl]furfurylamine (3.6 g, 65%).

reactant | cesium carbonate | 74 mmol, 24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | thiophenol | 29 mmol, 3.0 mL | C1(=CC=CC=C1)S | C6H6S
reactant | water | O | H2O
reactant | acetonitrile | 0.10 L | C(C)#N | C2H3N
product | N-[2-(tetrahydropyran-2-yloxy)ethyl]furfurylamine | 3.6 g, 65% | O1C(CCCC1)OCCNCC1=CC=CO1 | C12H19NO3
